US04960787
Methyl isocyanate (5 ml) is added to a solution of 2.1 g of N-benzyloxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine in 200 ml of ether and the solution is stirred at room temperature for 24 hours. Excess water is added and the mixture is stirred for 3 hours. The organic layer is separated, washed with brine, dried over magnesium sulfate and evaporated to dryness to yield N-(N'-methylcarbamoyl)-N-benzyloxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine.

reactant | Methyl isocyanate | 5 ml | CN=C=O | C2H3NO
reactant | N-benzyloxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine | 2.1 g | C(C1=CC=CC=C1)ONC(C)C1=CN(C=C1)C1=C(C=CC=C1C)C | C21H24N2O
reactant | water | O | H2O
solvent | ether | 200 ml | CCOCC | C4H10O
product | N-(N'-methylcarbamoyl)-N-benzyloxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine | CNC(=O)N(OCC1=CC=CC=C1)C(C)C1=CN(C=C1)C1=C(C=CC=C1C)C | C23H27N3O2
